US04271167
A solution of potassium borohydride (5.4 g) in distilled water (80 cc) is added, at a maximum of 35° C., to a solution of 4-hydroxy-4-methyl-3-(pyrid-2-yl)-thiazolidine-2-thione (22.6 g) in methanol (320 cc). The reaction is allowed to proceed for 30 minutes at 25°-35° C. A 3 N aqueous solution of hydrochloric acid (33.2 cc) is added. The methanol is evaporated off under reduced pressure (20 mm Hg) at 45° C. The aqueous phase is extracted with ethyl ether (800 cc). The ether solution is washed twice with distilled water (300 cc in total), treated with decolourising charcoal (1 g), dried over sodium sulphate and evaporated. The resulting product (23.0 g) is purified by recrystallisation from a mixture of ethyl ether (100 cc) and isopropyl ether (100 cc). 2-Hydroxypropyl pyrid-2-yldithiocarbamate (11.1 g), which melts at 78° C., is obtained.

reactant | potassium borohydride | 5.4 g | [BH4-].[K+]
reactant | 4-hydroxy-4-methyl-3-(pyrid-2-yl)-thiazolidine-2-thione | 22.6 g | OC1(N(C(SC1)=S)C1=NC=CC=C1)C | C9H10N2OS2
reactant | hydrochloric acid | 33.2 cc | Cl | ClH
solvent | water | 80 cc | O | H2O
solvent | methanol | 320 cc | CO | CH4O
product | 2-Hydroxypropyl pyrid-2-yldithiocarbamate | 11.1 g | N1=C(C=CC=C1)NC(SCC(C)O)=S | C9H12N2OS2
